US03953457
EXAMPLE 9: 1-METHYL-s-TRIAZOLO(4,3-a)QUINOLINE
To 2-hydrazinoquinoline (15.9 grams; 0.1 mole) in 70 milliliters xylene was added 13.0 grams (0.11 mole) methyl orthoacetate (13.0 grams; 0.11 mole). The stirred solution was refluxed for four hours, during which the methanol that distilled from the reaction was collected. The reaction mixture was cooled overnight, and filtered to separate the desired 1-methyl-s-triazolo(4,3-a)quinoline product. It was recrystallized from 1-butanol, yield, 9.0 grams, m.p., 166°-7°C.

reactant | 2-hydrazinoquinoline | 0.1 mole, 15.9 grams | N(N)C1=NC2=CC=CC=C2C=C1 | C9H9N3
reactant | methyl orthoacetate | 0.11 mole, 13.0 grams | C(C)(OC)([O-])[O-]
reactant | methanol | CO | CH4O
solvent | xylene | 70 milliliters | C=1(C(=CC=CC1)C)C | C8H10
product | 1-METHYL-s-TRIAZOLO(4,3-a)QUINOLINE | CC1=NN=C2N1C1=CC=CC=C1C=C2 | C11H9N3
